US06379900B1
The product of this reaction was analyzed in comparison with data on the published spectra of 8-nitroguanine. The reaction product was reduced by zinc-HCl or sodium hydrosulfite. Under these conditions, 8-nitroguanine is reduced to form 8-aminoguanine. This reduced product was compared by HPLC and spectral analysis with 8-aminoguanine synthesized by acid hydrolysis of commercially available 8-aminoguanosine.

reactant | 8-nitroguanine | [N+](=O)([O-])C1=NC=2N=C(NC(C2N1)=O)N | C5H4N6O3
reactant | sodium hydrosulfite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
catalyst | zinc-HCl | Cl.[Zn]
product | 8-aminoguanine | NC1=NC=2N=C(NC(C2N1)=O)N | C5H6N6O
